US07238724B2
5′-Chloro-4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-ylamine
To a stirred solution of (5′-chloro-4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-yl)-carbamic acid benzyl ester (0.060 g, 0.17 mmol ) in acetonitrile (1.0 mL) at room temperature was added iodotrimethysilane (0.04 mL, 0.25 mmol). The reaction mixture was stirred at 50° C. for 30 minutes, concentrated under reduced pressure, and purified by flash chromatography with 3% methanol in dichloromethane to provide titled compound. MS (CI) m/z 226 (M+1)+.

reactant | (5′-chloro-4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-yl)-carbamic acid benzyl ester | 0.17 mmol, 0.060 g | C(C1=CC=CC=C1)OC(NC1(CCN(CC1)C1=NC=C(C=C1)Cl)C)=O | C19H22ClN3O2
reactant | iodotrimethysilane | 0.25 mmol, 0.04 mL | I[Si](C)(C)C | C3H9ISi
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 5′-Chloro-4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-ylamine | ClC=1C=CC(=NC1)N1CCC(CC1)(C)N | C11H16ClN3
